US07767674B2
(4-Hydroxy-phenyl)-carbamic Acid Tert-butyl Ester
To a solution of 4-aminophenol (10.97 g, 100.5 mmol) and triethylamine (30 mL) in methanol (200 mL) is added di-tert-butyl dicarbonate (24.07 g, 110.3 mmol). The reaction mixture is stirred at 22° C. for 14 hours. After removal of solvent, the residue is distributed between ethyl acetate (250 mL) and 0.25 N aqueous hydrochloric acid solution (100 mL). The organic phase is isolated, washed with an aqueous saturated ammonium chloride solution (3×50 mL), and dried over anhydrous sodium sulfate. Removal of solvent affords a white solid (20.91 g, 100% yield, ES−(m/z) 208.1 [M−H]).

reactant | 4-aminophenol | 100.5 mmol, 10.97 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | triethylamine | 30 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 110.3 mmol, 24.07 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 200 mL | CO | CH4O
product | (4-Hydroxy-phenyl)-carbamic Acid Tert-butyl Ester | 100% yield | C(C)(C)(C)OC(NC1=CC=C(C=C1)O)=O | C11H15NO3
